US04921867
[(2-Bromo-3-pyridinyl)oxy]-N,N-diethylacetamide
Diethylamine (0.874 g) was slowly added with cooling to [(2-bromo-3-pyridinyl)oxy]acetic acid (2.58 g) in toluene (10 ml). The solution was then dded to phosphorous pentoxide (1.87 g) and diethylamine (1.74 g) in toluene (10 ml). After the addition the mixture was heated under reflux overnight. The dark solution was diluted with water (20 ml), made alkaline with 8% sodium bicarbonate (20 ml) and extracted with ethyl acetate (3×30 ml). The combined organic extracts were dried and the solvent was evaporated in vacuo to give the title compound as a brown oil (2.8 g). t.l.c. (toluene-ethanol-0.88 ammonia 80:20:1) Rf 0.47.

reactant | Diethylamine | 0.874 g | C(C)NCC | C4H11N
reactant | [(2-bromo-3-pyridinyl)oxy]acetic acid | 2.58 g | BrC1=NC=CC=C1OCC(=O)O | C7H6BrNO3
reactant | phosphorous pentoxide | 1.87 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethylamine | 1.74 g | C(C)NCC | C4H11N
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | [(2-Bromo-3-pyridinyl)oxy]-N,N-diethylacetamide | 2.8 g | BrC1=NC=CC=C1OCC(=O)N(CC)CC | C11H15BrN2O2
